US03992446
In a similar manner the reaction of 1-amino-3-(4-bromobenzylideneamino)guanidine methosulfate with 4-chlorobenzaldehyde gives the methosulfate salt of the subject compound. The reaction of 1-amino-3-(4-cyanobenzylideneamino)guanidine hydroiodide with 4-chlorobenzaldehyde gives 1-(4-chlorobenzylideneamino)-3-(4-cyanobenzylideneamino)guanidine hydroiodide; the reaction of 1-amino-3-(4-chlorobenzylideneamino)guanidinehydrochloride with 4-cyanobenzaldehyde affords the corresponding hydrochloride salt which melts at 297°-298° C. The reaction of 1-amino-3-(3,4-dichlorobenzylideneamino)guanidine hydrobromide and 4-chlorobenzaldehyde gives 1-(4-chlorobenzylidene-amino)-3-(3,4-dichlorobenzylideneamino)guanidine hydrobromide; the reaction of 1-amino-3-(4-chlorobenzylideneamino)guanidine hydrochloride with 3,4-dichlorobenzaldehyde gives the corresponding hydrochloride salt which melts at 288° C.

reactant | 1-amino-3-(3,4-dichlorobenzylideneamino)guanidine hydrobromide | Br.NNC(=N)NN=CC1=CC(=C(C=C1)Cl)Cl
reactant | 4-chlorobenzaldehyde | ClC1=CC=C(C=O)C=C1 | C7H5ClO
product | 1-(4-chlorobenzylidene-amino)-3-(3,4-dichlorobenzylideneamino)guanidine hydrobromide | Br.ClC1=CC=C(C=NNC(=N)NN=CC2=CC(=C(C=C2)Cl)Cl)C=C1 | InChI=1S/C15H12Cl3N5.BrH/c16-12-4-1-10(2-5-12)8-20-22-15(19)23-21-9-11-3-6-13(17)14(18)7-11;/h1-9H,(H3,19,22,23);1H
